US08461328B2
To an ice-cold mixture of 1-benzenesulfonyl-N*4*-(1-benzyl-piperidin-4-yl)-1H-pyrrolo[2,3-b]pyridine-4,5-diamine 1.30 g, 2.80 mmol) and triethylamine (0.59 mL, 4.20 mmol) in DCM (50 mL) was added chloroacetyl chloride (0.25 mL, 3.10 mmol) and the mixture was stirred 2 h. The reaction mixture was diluted with DCM, washed with water, brine, and dried over sodium sulphate. The residue was purified by flash (silica gel. 0-5% MeOH/DCM) to afford N-[1-Benzenesulfonyl-4-(1-benzyl-piperidin-4-ylamino)-1H-pyrrolo[2,3-b]pyridin-5-yl]-2-chloro-acetamide (1.10 g, 72%): LCMS (method E, ESI): RT=1.2 min; m+1=538.2.

reactant | 1-benzenesulfonyl-N*4*-(1-benzyl-piperidin-4-yl)-1H-pyrrolo[2,3-b]pyridine-4,5-diamine | 2.80 mmol, 1.30 g | C1(=CC=CC=C1)S(=O)(=O)N1C=CC=2C1=NC=C(C2NC2CCN(CC2)CC2=CC=CC=C2)N | C25H27N5O2S
reactant | triethylamine | 4.20 mmol, 0.59 mL | C(C)N(CC)CC | C6H15N
reactant | chloroacetyl chloride | 3.10 mmol, 0.25 mL | ClCC(=O)Cl | C2H2Cl2O
solvent | DCM | 50 mL | C(Cl)Cl | CH2Cl2
product | N-[1-Benzenesulfonyl-4-(1-benzyl-piperidin-4-ylamino)-1H-pyrrolo[2,3-b]pyridin-5-yl]-2-chloro-acetamide | 1.10 g, 72% | C1(=CC=CC=C1)S(=O)(=O)N1C=CC=2C1=NC=C(C2NC2CCN(CC2)CC2=CC=CC=C2)NC(CCl)=O | C27H28ClN5O3S
